US05312961
2-amino-7-(ethoxycarbonylpropan-3-yloxy)tetralin hydrochloride
A solution of 2-benzylamino-7-(ethoxycarbonylpropan-3-yloxy) tetralin hydrochloride (14 g), prepared as described in Example 3, in a mixture of 95% ethanol (250 ml) and water (10 ml) is hydrogenated at atmospheric pressure and 60° C. in the presence of 10% Pd/C (2 g) as the hydrogenation catalyst. After 5 hours the catalyst is filtered off, the filtrate is concentrated to dryness and the residue is taken up in absolute ethanol (100 ml) and concentrated to dryness a few times. The obtained product is then triturated with acetone, filtered and crystallized from isopropanol affording 8.8 g of the compound of the title. M.p. 134°-136° C.

reactant | 2-benzylamino-7-(ethoxycarbonylpropan-3-yloxy) tetralin hydrochloride | 14 g | Cl.C(C1=CC=CC=C1)NC1CC2=CC(=CC=C2CC1)OC(CC)C(=O)OCC
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-amino-7-(ethoxycarbonylpropan-3-yloxy)tetralin hydrochloride | Cl.NC1CC2=CC(=CC=C2CC1)OC(CC)C(=O)OCC | InChI=1S/C16H23NO3.ClH/c1-3-15(16(18)19-4-2)20-14-8-6-11-5-7-13(17)9-12(11)10-14;/h6,8,10,13,15H,3-5,7,9,17H2,1-2H3;1H
